US06255276B1
95 g (0.2 mol) of (6-carboxyhexyl)triphenylphosphonium bromide in 600 ml of tetrahydrofuran were added to 48 g (0.42 mol) of potassium t-butylate in 200 ml of tetrahydrofuran. Thereafter, 29 g (0.18 mol) of 8-hydroxy-6-methyl-2-octanone were added. After work up and chromatography 26 g (48%) of 14-hydroxy-8,12-dimethyltetradec-7-enoic acid were obtained having the following characteristics: Z/E=58/42;

reactant | (6-carboxyhexyl)triphenylphosphonium bromide | 0.2 mol, 95 g | [Br-].C(=O)(O)CCCCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 8-hydroxy-6-methyl-2-octanone | 0.18 mol, 29 g | OCCC(CCCC(C)=O)C | C9H18O2
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 14-hydroxy-8,12-dimethyltetradec-7-enoic acid | 26 g, 48% | OCCC(CCCC(=CCCCCCC(=O)O)C)C | C16H30O3
